US04240968
Alternate Method of Obtaining Chroman-I Concentrate
To a 4-necked, round bottom flask equipped with a mechanical stirrer, water cooled condenser, dropping funnel, and heated by means of electrical tape, there was placed 500 grams of methylene chloride. To the well stirred methylene chloride solution, there was added the 500 grams of molten BPA by-products, the rate of addition of the molten by-products being used to control the reflux rate of the methylene chloride. The temperature of the solvent was 40° C. and had a dark color. After the addition of about half of the molten by-products, yellow colored crystals formed in the solution. Upon completing the addition of the molten by-products, the resultant thick, yellow mixture was cooled and filtered. The filter cake was washed with fresh methylene chloride to afford a white solid. The white, chroman-I concentrate filter cake was dried at 100° C. for 24 hours.

reactant | BPA | 500 grams | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 grams | C(Cl)Cl | CH2Cl2
product | Chroman-I | CC1(CC(C2=CC=CC=C2O1)(C)C3=CC=C(C=C3)O)C | C18H20O2
